US06534522B2
E) 4-Benzyl-2-(chloromethyl)pyridine
A solution of 4-benzyl-2-(hydroxymethyl) pyridine (2.85 g, 14.6 mmol) in SOCl2 (7.50 mL, 102 mmol) was stirred at 25° C. for 30 min. and was concentrated under reduced pressure. The crude compound was diluted with EtOAc (100 mL), washed with NaHCO3 (2×100 mL), dried over Na2SO4 and was concentrated under reduced pressure to afford the title compound as a dark oil (3.2 g, 98%): 1H NMR (CDCl3) δ4.00 (s, 2H), 4.66 (s, 2H), 7.08 (d, J=5.1 Hz, 1H), 7.18 (d, J=7.2 Hz, 2H), 7.20-7.40 (m, 4H), 8.46 (d, J=5.1 Hz, 1H).

reactant | 4-benzyl-2-(hydroxymethyl) pyridine | 14.6 mmol, 2.85 g | C(C1=CC=CC=C1)C1=CC(=NC=C1)CO | C13H13NO
reactant | SOCl2 | 102 mmol, 7.50 mL | O=S(Cl)Cl | Cl2OS
product | 4-Benzyl-2-(chloromethyl)pyridine | 3.2 g, 98% | C(C1=CC=CC=C1)C1=CC(=NC=C1)CCl | C13H12ClN
